US05340819
9-(4-Phenylsulfonylphenyl)-3,4,6,7,9,10-hexahydro-1,8-(2H,5H)acridinedione.
A stirred mixture of 4-phenylsulfonylbenzaldehyde (1.23 g), 1,3-cyclohexanedione (1.12 g), ammonium acetate (0.58 g) and ethanol (10 mL) was refluxed for 4 hours. The mixture was cooled and the light yellow crystals were collected, washed with water and dried in vacuo. A second crop obtained, by treatment of the liquors with water, was added to the dried solid and the total material was chromatographed with ether:methylene chloride as the eluent (20:80) followed by methanol:dichloromethane (10:90). Evaporation and recrystallization from ethanol:hexane yielded the title compound as a hemihydrate (1.10 g) as a pale yellow solid; mp 260° C.; NMR: 1.74-1.93 (m,4), 2.11-2.26 (m,4), 2.43-2.57 (m,4), 4.94 (s,1), 7.38 (d,2, J=8.3), 7.56-7.69 (m,3,), 7.77 (d,2, J=8.2), 7.93 (dd,2, J=8.3, 1.4), 9.53 (s,1,); MS: m/z=434(M+1 ). Found for C25H23NO4S.0.5 H2O: C, 67.88; H, 5.37; N, 3.14.

reactant | 4-phenylsulfonylbenzaldehyde | 1.23 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=O)C=C1 | C13H10O3S
reactant | 1,3-cyclohexanedione | 1.12 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | ammonium acetate | 0.58 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 9-(4-Phenylsulfonylphenyl)-3,4,6,7,9,10-hexahydro-1,8-(2H,5H)acridinedione | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C1C=2C(CCCC2NC=2CCCC(C12)=O)=O | C25H23NO4S
